US08461328B2
A mixture of 3-(6-benzene sulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)cyclopentylamine (200 mg, 520 μmol) and triethylamine (333 μL, 2.39 mmol) in DCM (3 mL) was added dropwise to a stirred solution of triphosgene (121 mg, 400 μmol) in DCM (3 mL) and stirred at ambient temperature for 1 hour. A solution of the free base of methyl (2,2,2-trifluoroethyl) amine hydrochloride (240 mg, 1.60 mmol) in DCM (2 mL) was added dropwise and after 1 hour the reaction was quenched with a saturated solution of sodium bicarbonate. After standing for 2 days and organic phase was dried using a phase separator cartridge and purified by column chromatography on silica gel (gradient: 0 to 100% ethyl acetate in cyclohexane) to afford 80 mg (29%) of racemic trans 3-[3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-1-methyl-1-(2,2,2-trifluoro-ethyl)-urea as a gum. LCMS (Method B, ESI): RT=3.70 min, m+H=522.4.

reactant | 3-(6-benzene sulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)cyclopentylamine | 520 μmol, 200 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=NC=C3N=NN(C3=C2C=C1)C1CC(CC1)N | C18H18N6O2S
reactant | triethylamine | 2.39 mmol, 333 μL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 400 μmol, 121 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | methyl (2,2,2-trifluoroethyl) amine hydrochloride | 1.60 mmol, 240 mg | Cl.CNCC(F)(F)F
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | racemic trans 3-[3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-1-methyl-1-(2,2,2-trifluoro-ethyl)-urea | 80 mg, 29% | C1(=CC=CC=C1)S(=O)(=O)N1C2=NC=C3N=NN(C3=C2C=C1)[C@@H]1C[C@H](CC1)NC(N(CC(F)(F)F)C)=O | C22H22F3N7O3S
